US03962299
A 2-liter stirred autoclave was charged with 600 grams of crude terephthalic acid (3.61 moles), 1600 ml. of 2-propyldioxolane reaction medium, 0.11 mole of tetraethyl ammonium terephthalate catalyst and then purged with nitrogen. Liquid ethylene oxide (473 grams, 10.75 mole) was then pumped in and the reactor heated quickly to 155°C. by passing steam through internal coils. After about 31/2 minutes the reaction was terminated by pressuring the contents of the autoclave into a vessel where the ethylene oxide was flashed and then the unreacted terephthalic acid removed by filtration. Cooling of the filtrate to about 18°C. gave about 742 grams of crude bis(2-hydroxyethyl) terephthalate.

reactant | terephthalic acid | 3.61 moles, 600 grams | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 2-propyldioxolane | C(CC)C1OCCO1 | C6H12O2
reactant | ethylene oxide | 10.75 mole, 473 grams | C1CO1 | C2H4O
catalyst | tetraethyl ammonium terephthalate | 0.11 mole | C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-].C(C)[N+](CC)(CC)CC.C(C)[N+](CC)(CC)CC
product | bis(2-hydroxyethyl) terephthalate | about 742 grams | C(C1=CC=C(C(=O)OCCO)C=C1)(=O)OCCO | C12H14O6
